US07253286B2
4-{4-[3-(4-Fluorophenyl)ureido]phenoxy)-7H-pyrrolo[2.3-d]pyrimidine-6-carboxylic acid ethyl ester
After dissolving 90 mg of ethyl 4-(4-aminophenoxy)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylate in 3 ml of toluene and 1 ml of acetonitrile at 110° C., 16.6 μl of 4-fluorophenyl isocyanate was added and the mixture was stirred for 1 hour under reflux. After standing at room temperature, the precipitated crystals were filtered out and dried to obtain 110 mg of the title compound.

reactant | ethyl 4-(4-aminophenoxy)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylate | 90 mg | NC1=CC=C(OC=2C3=C(N=CN2)NC(=C3)C(=O)OCC)C=C1 | C15H14N4O3
reactant | 4-fluorophenyl isocyanate | 16.6 μl | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 4-{4-[3-(4-Fluorophenyl)ureido]phenoxy)-7H-pyrrolo[2.3-d]pyrimidine-6-carboxylic acid ethyl ester | 110 mg | C(C)OC(=O)C1=CC2=C(N=CN=C2OC2=CC=C(C=C2)NC(=O)NC2=CC=C(C=C2)F)N1 | C22H18FN5O4
